US05705531
A solution of 1.80 g of (1S,3aS,7aR)-1-acetoxymethyl-5-((Z)-2-(1,3-dioxolan-2-yl)ethyliden]-7a-methylperhydroinden-3a-ol in 20 ml of 1N PTSA in acetonitrile/water 85:15 was kept at room temperature for 8 hrs. The mixture was then neutralised with 5% aqueous NaHCO3, concentrated under reduced pressure and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure. The residue was dissolved in 5 ml of methanol and the solution cooled at 0° C. 0.33 g of NaBH4 were cautiously added and the mixture was stirred for 1 hr. It was then diluted with 10 ml of 5% aqueous NaH2PO4.H2O and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure to give 1.13 g of (1S,3aS,7aR)-1-acetoxymethyl-5-[(Z)-3-hydroxypropyliden]-7a-methylperhydroinden-3a-ol as a dense colourless off.

reactant | (1S,3aS,7aR)-1-acetoxymethyl-5-((Z)-2-(1,3-dioxolan-2-yl)ethyliden]-7a-methylperhydroinden-3a-ol | 1.80 g | C(C)(=O)OC[C@H]1CC[C@@]2(C\C(\CC[C@]12C)=C/CC1OCCO1)O | C18H28O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | PTSA | 1N, 20 ml | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetonitrile water | C(C)#N.O
product | (1S,3aS,7aR)-1-acetoxymethyl-5-[(Z)-3-hydroxypropyliden]-7a-methylperhydroinden-3a-ol | 1.13 g | C(C)(=O)OC[C@H]1CC[C@@]2(C\C(\CC[C@]12C)=C/CCO)O | C16H26O4
